US05686459
7.B)g) (3aRS,4SR,8aRS,8bSR)-4-(2-Cyclohexylmethyl-1,3-dioxo-decahydro-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile was prepared analogously to Example 4.B)g) from 4-cyano-benzaldehyde, L-proline and N-cyclohexylmethylmaleimide. Colourless crystals. M.p.: 119°-122° C. (ethyl acetate/hexane). ISP-MS: 378.4 ([M+H]+, 100).

reactant | 4-cyano-benzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-cyclohexylmethylmaleimide | C1(CCCCC1)CN1C(C=CC1=O)=O | C11H15NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (3aRS,4SR,8aRS,8bSR)-4-(2-Cyclohexylmethyl-1,3-dioxo-decahydro-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile | C1(CCCCC1)CN1C(C2C(C(N3CCCC23)C2=CC=C(C#N)C=C2)C1=O)=O | C23H27N3O2
